US05508293
After 3-cyano-5-hydroxymethylpyridine (0.79 g, 5.9 mmol) was dissolved in 1-propanol (30 ml) and hydrogen chloride gas was passed into the solution under ice-cooling for 30 minutes, the reactor was tight sealed for stirring the mixture at room temperature for 20 hours. After the completion of the reaction, the reaction mixture was concentrated under reduced pressure, and the residue was neutralized with a saturated aqueous sodium carbonate solution and extracted with chloroform (30 ml×3). The chloroform layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was dissolved in acetonitrile (20 ml), and an aqueous solution (30 ml) of cyanamide (0.50 g, 11.9 mmol), Na2HPO4 (0.84. g, 5.9 mmol) and NaH2PO4 ·2H2O (3.79 g, 23.7 mmol) was added to the solution. The mixture was stirred at room temperature for 10 hours. After the completion of the reaction, the mixture was extracted with chloroform (100 ml×3). The chloroform layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to give a crude product of propyl N-cyano-5-hydroxymethyl-3-pyridinecarboximidate.

reactant | 3-cyano-5-hydroxymethylpyridine | 5.9 mmol, 0.79 g | C(#N)C=1C=NC=C(C1)CO | C7H6N2O
reactant | hydrogen chloride | Cl | ClH
reactant | cyanamide | 11.9 mmol, 30 ml, 0.50 g | N#CN | CH2N2
solvent | 1-propanol | 30 ml | C(CC)O | C3H8O
product | propyl N-cyano-5-hydroxymethyl-3-pyridinecarboximidate | C(#N)N=C(OCCC)C=1C=NC=C(C1)CO | C11H13N3O2
